US05495020
To a solution of 7-(1-piperazinyl)-1-cyclopropyl-6,8-difluoro-5-methyl-1, 4-dihydro-4-oxoquinoline-3carboxylic acid (42 mg) in 5% sodium hydroxide (2 ml) is added acetic anhydride (0.1 ml) at room temperature. After the mixture is made acidic with dilute hydrochloric acid, the resultant is extracted with dichloromethane and the extract is dried over magnesium sulfate. After concentrating, the obtained residue is recrystallized from ethanol to give 7-(4-acetyl-1-piperazinyl)-1-cyclopropyl-6,8-difluoro-5-methyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid (30 mg), as white powder, m.p. 217°-220° C.

reactant | 7-(1-piperazinyl)-1-cyclopropyl-6,8-difluoro-5-methyl-1, 4-dihydro-4-oxoquinoline-3carboxylic acid | 42 mg | N1(CCNCC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C)F | C18H19F2N3O3
reactant | acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2 ml | [OH-].[Na+]
product | 7-(4-acetyl-1-piperazinyl)-1-cyclopropyl-6,8-difluoro-5-methyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid | 30 mg | C(C)(=O)N1CCN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C)F | C20H21F2N3O4
